### PR TITLE
[Merged by Bors] - chore(CategoryTheory): dualize `IndYoneda`

### PR DESCRIPTION
**Pull request by TwoFX**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/IndYoneda.lean [hunk 1]
```diff
@@ -201,12 +198,41 @@ lemma colimitCoyonedaHomIsoLimit_π_apply (f : colimit (D.rightOp ⋙ coyoneda)
 
 end ProCoyonedaContravariant
 
+section IndYonedaCovariant
+
+variable (D : Iᵒᵖ ⥤ Cᵒᵖ) (F : Cᵒᵖ ⥤ Type u₂)
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Limits/IndYoneda.lean:203]: Should this be stated in terms of `D : I ⥤ C` instead?

**Review by chrisflav — APPROVED** [review]

File: Mathlib/CategoryTheory/Limits/IndYoneda.lean (hunk 1 above)
Comment (TwoFX) [reply Mathlib/CategoryTheory/Limits/IndYoneda.lean:203]: Good question. This actually applies to all four variants. They all could be stated so that the LHS "always applies" or that the RHS "always applies". Since the two existing variants are stated so that the RHS always applies, I did the same for the new variants. In your application, you need the RHS version, but in my application I actually need the LHS version. Of course, `D.unop.op` is definitionally equal to `D`, but relying on things like this is how you get goals that can only be solved by `erw`, so l guess I'll add four more variants. The hardest part will be the naming...

Comment (TwoFX) [reply Mathlib/CategoryTheory/Limits/IndYoneda.lean:232]: I have added the variants.

File: Mathlib/CategoryTheory/Limits/IndYoneda.lean [hunk 2]
```diff
@@ -198,6 +198,35 @@ lemma colimitCoyonedaHomIsoLimit_π_apply (f : colimit (D.rightOp ⋙ coyoneda)
...
+      = ⟨f.app (D.obj i).unop ((colimit.ι (D ⋙ coyoneda) i).app (D.obj i).unop
+          (𝟙 (D.obj i).unop))⟩ := by
+  change ((colimitCoyonedaHomIsoLimitLeftOp D F).hom ≫
+    (limit.π (D.leftOp ⋙ F ⋙ uliftFunctor.{u₁}) (op i))) f = _
+  simp only [colimitCoyonedaHomIsoLimitLeftOp, Iso.trans_hom, Category.assoc,
+    HasLimit.isoOfNatIso_hom_π]
+  rw [← Category.assoc, colimitHomIsoLimitYoneda_hom_comp_π]
+  dsimp [coyonedaLemma, types_comp_apply]
+  erw [coyonedaEquiv_comp, coyonedaEquiv_apply]
+  rfl
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Limits/IndYoneda.lean:226]:
```suggestion
haveI : HasColimit (D.leftOp.rightOp ⋙ coyoneda) :=
    inferInstanceAs <| HasColimit (D ⋙ coyoneda)
  apply colimitCoyonedaHomIsoLimit_π_apply
```
and similarly below.

File: Mathlib/CategoryTheory/Limits/IndYoneda.lean [hunk 3]
```diff
@@ -198,6 +198,35 @@ lemma colimitCoyonedaHomIsoLimit_π_apply (f : colimit (D.rightOp ⋙ coyoneda)
...
+variable (D : I ⥤ Cᵒᵖ) (F : C ⥤ Type u₂)
+variable [HasColimit (D ⋙ coyoneda)] [HasLimitsOfShape Iᵒᵖ (Type (max u₁ u₂))]
+
+/-- Pro-Coyoneda lemma: morphisms from colimit of coyoneda of diagram `D` to `F` is limit
+of `F` evaluated at `D`. This variant is for contravariant diagrams, see
+`colimitCoyonedaHomIsoLimit'` for a covariant version. -/
+noncomputable def colimitCoyonedaHomIsoLimitLeftOp :
+    (colimit (D ⋙ coyoneda) ⟶ F) ≅ limit (D.leftOp ⋙ F ⋙ uliftFunctor.{u₁}) :=
+  colimitHomIsoLimitYoneda _ F ≪≫
+    HasLimit.isoOfNatIso (isoWhiskerLeft (D.leftOp ⋙ Prod.sectl C F) (coyonedaLemma C))
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Limits/IndYoneda.lean:212]: If you add a
```
local instance : HasColimit (D.leftOp.rightOp ⋙ coyoneda) :=
  inferInstanceAs <| HasColimit (D ⋙ coyoneda)
```
this can become
```suggestion
  colimitCoyonedaHomIsoLimit D.leftOp F
```

Comment (TwoFX) [reply Mathlib/CategoryTheory/Limits/IndYoneda.lean]: I have applied this change, but I chose to inline the instances into the terms instead of adding a `local instance`. This way, it is clear that the local instance is not required in the statement of the definition/theorems, which is important to make sure that users can use these results without having to restate the local instances.

**Review by chrisflav — APPROVED** [review]
Thanks!

maintainer merge

File: Mathlib/CategoryTheory/Limits/IndYoneda.lean [hunk 4]
```diff
@@ -201,12 +198,91 @@ lemma colimitCoyonedaHomIsoLimit_π_apply (f : colimit (D.rightOp ⋙ coyoneda)
...
+noncomputable def colimitCoyonedaHomIsoLimitLeftOp :
+    (colimit (D ⋙ coyoneda) ⟶ F) ≅ limit (D.leftOp ⋙ F ⋙ uliftFunctor.{u₁}) :=
+  haveI : HasColimit (D.leftOp.rightOp ⋙ coyoneda) :=
+    inferInstanceAs <| HasColimit (D ⋙ coyoneda)
+  colimitCoyonedaHomIsoLimit D.leftOp F
+
+@[simp]
+lemma colimitCoyonedaHomIsoLimitLeftOp_π_apply (f : colimit (D ⋙ coyoneda) ⟶ F) (i : I) :
+    limit.π (D.leftOp ⋙ F ⋙ uliftFunctor.{u₁}) (op i) ((colimitCoyonedaHomIsoLimitLeftOp D F).hom f)
+      = ⟨f.app (D.obj i).unop ((colimit.ι (D ⋙ coyoneda) i).app (D.obj i).unop
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/IndYoneda.lean:218]:
```suggestion
    limit.π (D.leftOp ⋙ F ⋙ uliftFunctor.{u₁}) (op i) ((colimitCoyonedaHomIsoLimitLeftOp D F).hom f) =
      ⟨f.app (D.obj i).unop ((colimit.ι (D ⋙ coyoneda) i).app (D.obj i).unop
```

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
